US08106064B2
To a stirred solution of 3-((2,6-bis(benzyloxy)-5-isopropylpyrimidin-4-yl)(cyano)methyl)-5-methylbenzonitrile (53.46 g, 0.0195M) in anhydrous DMF (400 mL) in a water bath under nitrogen atmosphere, was added 60% sodium hydride (4.87 g, 0.1205M) portionwise. After 30 min., oxygen gas was bubbled into the reaction mixture using oxygen balloon. After 3 hr., sat. aqueous ammonium chloride solution was added and the product was extracted with ether. Ether layer was washed with water twice, dried with anhydrous magnesium sulfate, filtered, and evaporated in vacuo to give a crude product as a light yellow solid. The crude product was purified by silica gel column chromatography (eluent, EA:hexane (1:9)) to afford 45.7 g (88%) of 3-(2,6-bis(benzyloxy)-5-isopropylpyrimidine-4-carbonyl)-5-methylbenzonitrile as a light yellow solid. m.p. 129-130° C. 1H NMR (300 MHz, CDCl3) δ 1.20 (3H, d, J=7.0 Hz), 1.22 (3H, d, J=7.0 Hz), 2.43 (3H, s), 2.84 (1H, m), 5.34 (2H, s), 5.51 (2H, s), 7.29-7.46 (10H, m), 7.66 (1H, s), 7.83 (1H, s), 7.90 (1H, s).

reactant | 3-((2,6-bis(benzyloxy)-5-isopropylpyrimidin-4-yl)(cyano)methyl)-5-methylbenzonitrile | 0.0195M, 53.46 g | C(C1=CC=CC=C1)OC1=NC(=C(C(=N1)C(C=1C=C(C#N)C=C(C1)C)C#N)C(C)C)OCC1=CC=CC=C1 | C31H28N4O2
reactant | sodium hydride | 0.1205M, 4.87 g | [H-].[Na+]
reactant | DMF | 400 mL | CN(C)C=O | C3H7NO
product | 3-(2,6-bis(benzyloxy)-5-isopropylpyrimidine-4-carbonyl)-5-methylbenzonitrile | 45.7 g, 88% | C(C1=CC=CC=C1)OC1=NC(=C(C(=N1)C(=O)C=1C=C(C#N)C=C(C1)C)C(C)C)OCC1=CC=CC=C1 | C30H27N3O3
